US09108944B2
A mixture of 4-amino-2-fluoro-N-methylbenzamide (2 g, 11.9 mmol), TMSCN (2.2 mL, 17.9 mmol), TMSOTf (0.1 mL, 0.6 mmol), and acetone (10 mL, 140 mmol) in DCM (20 mL) was stirred at room temperature overnight. The white solid was filtered, washed with a small amount of DCM, and dried to afford 1.12 g of 4-((2-cyanopropan-2-yl)amino)-2-fluoro-N-methylbenzamide as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 7.79 (t, 1H), 7.56 (t, 1H), 6.88 (s, 1H), 6.67 (dd, 1H), 6.54 (dd, 1H), 2.75 (d, 3H), 1.67 (s, 6H).

reactant | 4-amino-2-fluoro-N-methylbenzamide | 11.9 mmol, 2 g | NC1=CC(=C(C(=O)NC)C=C1)F | C8H9FN2O
reactant | TMSCN | 17.9 mmol, 2.2 mL | [Si](C)(C)(C)C#N | C4H9NSi
reactant | TMSOTf | 0.6 mmol, 0.1 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | acetone | 140 mmol, 10 mL | CC(=O)C | C3H6O
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 4-((2-cyanopropan-2-yl)amino)-2-fluoro-N-methylbenzamide | 1.12 g | C(#N)C(C)(C)NC1=CC(=C(C(=O)NC)C=C1)F | C12H14FN3O
